US07700641B2
Synthesis of 1′-pentyl-6-phenoxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
To a solution of 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one (0.08 g, 0.19 mmol) in anhydrous dioxane (4.00 mL) was added copper iodide (0.01 g, 0.01 mmol), N,N-dimethyl glycine hydrochloride (0.01 g, 0.01 mmol), cesium carbonate (0.17 g, 0.52 mmol) and phenol (0.03 g, 0.32 mmol). The resulted mixture was refluxed for 16 h under nitrogen, diluted with dichloromethane (50.0 mL) and filtered through a celite bed. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/6) to give the title compound (0.07 g, 87%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 7.36-7.28 (m, 3H), 7.20-7.00 (m, 4H), 6.92 (d, 1H), 6.62 (dd, 1H), 6.58 (br, 1H), 6.44 (dd, 1H), 4.95 (d, 1H), 4.71 (d, 1H), 3.92-3.64 (m, 2H), 1.70-1.68 (m, 2H), 1.43-1.34 (m, 4H), 0.92 (t, 3H); MS (ES+) m/z 400.5 (M+1).

reactant | 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 0.19 mmol, 0.08 g | BrC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
reactant | N,N-dimethyl glycine hydrochloride | 0.01 mmol, 0.01 g | Cl.CN(CC(=O)O)C
reactant | cesium carbonate | 0.52 mmol, 0.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | phenol | 0.32 mmol, 0.03 g | C1(=CC=CC=C1)O | C6H6O
solvent | dioxane | 4.00 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50.0 mL | ClCCl | CH2Cl2
catalyst | copper iodide | 0.01 mmol, 0.01 g | [Cu](I)I
product | 1′-pentyl-6-phenoxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 0.07 g, 87% | C(CCCC)N1C(C2(C3=CC=CC=C13)COC1=C2C=CC(=C1)OC1=CC=CC=C1)=O | C26H25NO3
